Name:  ___.           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left shoulder pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
___ yo man with history of HTN, HLD, 2V CAD s/p PCI x3 (DES to 
mid LAD, ___ RCA, distal RCA) on ___ who presents with left 
shoulder/back pain. Patient has had worsening exertional left 
shoulder pain radiating down left arm. pMIBI on ___ showed 
perfusion defect and so patient underwent elective cath on ___. 
This showed 2V and PCI vs CABG was considered. Ultimately, pt 
preferred PCI and so underwent cath on ___ with stents placed as 
above. He was discharged on ___ on aspirin 81 lifelong and ___ 
year of Plavix. He reports medication compliance since ___. 
Since then, however, he has had continuing left shoulder pain 
and presented to the ED. 
 
In the ED initial vitals were: T 98.5 BP 128/82 HR 70 RR 18 98% 
RA
EKG: NSR, NA, NI, no ST changes 
Labs/studies notable for: Trop 0.08 -> 0.06 ___K-MB. CXR 
negative for cardiopulmonary process. He had a ETT that showed 
possible anginal type symptoms with borderline ischemic EKG 
changes. Appropriate hemodynamic response to exercise. Good 
functional capacity. 
Patient was given: aspirin 243 mg, valium 5 mg, asa 81, Plavix 
75 mg daily, raniditine 150  mg
Vitals on transfer: 98.2 124/67 HR 75 18 99% RA 
On the floor, patient denies any lightheadedness, palpitations, 
chest pain, left shoulder pain. 

ROS: On review of systems, denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. Denies recent fevers, chills or rigors. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative.
 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia
2. CARDIAC HISTORY: CAD
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: x3 PCI on ___
- PACING/ICD: None

3. OTHER PAST MEDICAL HISTORY:
GERD
allergic rhinitis
Depression
BPH
 
Social History:
___
Family History:
DM, breast CA, CVA in father at age ___, afib 
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.

 
Physical Exam:
Admission exam:
VS: T=97.9 BP= 121/80 HR= 82 RR= 18 O2 sat= 96% 71.4 lbs
GENERAL: WDWN, mildly anxious appearing. Oriented x3. Mood, 
affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with JVP of 5 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

Discharge exam:
VS: T=98 BP= 117-121/72-80 HR= ___ RR= 18 O2 sat= 96% 71.4 kg
GENERAL: WDWN, mildly anxious appearing. Oriented x3. Mood, 
affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with JVP of 5 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e. No femoral bruits. Back nontender with no 
apparent erythema or warmth, normal ROM, no CVAT, pt localizes 
pain to R lumbrosacral area laterally.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric
 
Pertinent Results:
Admission labs:
___ 04:05AM   WBC-9.3 RBC-4.86 HGB-14.6 HCT-42.4 MCV-87 
MCH-30.0 MCHC-34.4 RDW-12.3 RDWSD-39.0
___ 04:05AM   ___ PTT-29.2 ___
___ 04:05AM   CALCIUM-9.1 PHOSPHATE-2.4* MAGNESIUM-1.9
___ 04:05AM   CK-MB-8
___ 04:05AM   cTropnT-0.08*
___ 04:05AM   CK(CPK)-145
___ 04:05AM   GLUCOSE-103* UREA N-14 CREAT-0.9 SODIUM-138 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-23 ANION GAP-16
___ 09:26AM   cTropnT-0.06*
___ 09:26AM   CK-MB-5
___ 09:10PM   CK-MB-4 cTropnT-0.09*

Reports:
ETT: ___: 
INTERPRETATION: This ___ year old man with a h/o CAD, HTN, HLD 
and a 
+family h/o CAD s/p stenting to the RCA x2 and LAD x2 on ___ 
was 
referred to the lab from the ED following down trending troponin 
values (0.08 ng/mL and 0.06 ng/mL) for evaluation of chest and 
back discomfort. The patient exercised for 9.5 minutes of a 
___ protocol and stopped for fatigue. The estimated peak MET 
capacity is 10.6, representing a good functional capacity for 
his age. The patient presented with intermittent left sided 
epigastric tightness, which then radiated to the anterior axilla 
at 6.5 minutes of exercise and was absent at peak exercise. At 
8.5 minutes of exercise the patient reported a ___ left 
shoulder tightness/soreness, which progressed to a ___ at peak 
exercise and slowly resolved with rest by 10 minutes of 
recovery. Immediately post-exercise the patient reported a 
subscapcular tingling sensation which resolved by 5 minutes of 
recovery. At peak exercise there was 0.5-1.0 mm horizontal to 
downsloping STD in leads V1-4. These changes resolved with rest 
and were absent by 7 minutes of recovery. The rhythm was sinus 
with rare isolated VPBs. Appropriate HR and BP response to 
exercise. 
IMPRESSION: Possible anginal type symptoms with borderline 
ischemic EKG changes. Appropriate hemodynamic response to 
exercise. Good functional capacity. Dr. ___ 
the patient and reviewed EKG tracings.

CXR ___
FINDINGS: The cardiac silhouette is normal in size.  The hilar 
and mediastinal contours are within normal limits.  Lungs are 
well expanded and clear.  There is no focal consolidation, 
pleural effusion or pneumothorax. IMPRESSION: No acute 
cardiopulmonary process. 

Cardiac cath ___:
Coronary Anatomy: Dominance: Right
* Left Main Coronary Artery: The LMCA is normal.
* Left Anterior Descending: The LAD has a widely patent stent in 
the mid segment. There is a segment of diffuse 40-50% stenosis 
in
mid segment proximal to the stent. l. The ___ Diagonal is 
occluded ostially, is moderate in size, and fills via left to 
left collaterals..
* Circumflex: The Circumflex has 50% distal stenosis.
* Right Coronary Artery: The RCA has widely patent stents in 
___ and distal segments.
Impressions: Widely patent stents in LAD and RCA. Stable 
angiographic appearance compared to end of case last week.
Moderate severity disease in mid LAD with negative pressure wire 
study of this vessel. No intervention performed.
 
Brief Hospital Course:
___ yo man with history of 2V CAD s/p PCI with DES to RCA, LAD 
___, HTN, HLD who presents with recurrent left 
shoulder/scapular pain.

# CORONARIES:  2V CAD s/p PCI with DES to RCA, LAD ___
# PUMP: no prior TTE although ETT shows normal global systolic 
function
# RHYTHM: NSR

#Left shoulder pain, concern for angina equivalent: His symptoms 
originally began earlier in ___ with progressive left shoulder 
pain that was worse with exertion, radiating to left scapula and 
down left arm. This was concerning for possible rotator cuff 
pathology vs atypical anginal symptoms. Given this concern, he 
underwent pMIBI on ___ which showed a perfusion defect. He 
subsequently underwent elective cath on ___ which showed 2V 
disease. No intervention was performed, and plan was for PCI vs 
CABG. Ultimately, PCI was chosen, and patient underwent cath on 
___ with DES placed in RCA and LAD. He was discharged on ___ 
on aspirin 81 lifelong and ___ year of Plavix. However, he had 
continuing left shoulder pain and presented to the ED. In the ED 
this admission, EKG showed NSR, NA, NI without Q waves or ST 
changes. CKMB was flat, although troponins were elevated to 0.08 
(downtrended in the ED to 0.06). He received full dose aspirin 
and was admitted to ED observation. Given troponin leak, he 
underwent ETT, which showed possible anginal type symptoms with 
borderline ischemic EKG changes. He was therefore admitted to 
cardiac service and underwent catheterization on ___. This 
showed patent stents, and no intervention was performed. At this 
time, we believe his ongoing shoulder pain may be 
musculoskeletal in etiology.

#GERD: continued home ranitidine

#Depression/anxiety: continued home buproprion

#HTN: well-controlled, transitioned to Metoprolol as above (more 
for CAD than HTN).  

#BPH: continued home finasteride 

#Seasonal Allergy: continued home loratadine

#Rosacea: continued home metronidazole gel

TRANSITIONAL ISSUES:
- Patient has a history of left shoulder pain, worse with 
exercise, which was initially considered his anginal equivalent 
and prompting further work up. However, he may have a MSK 
element of his shoulder pain and should be further evaluated 
with possible ___ referral if warranted.
- Home atenolol changed to Metoprolol for CAD 
- Full code
- Contact: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. metroNIDAZOLE 0.75 % topical QHS:PRN red areas on face 
2. BuPROPion (Sustained Release) 300 mg PO QPM 
3. Atenolol 25 mg PO DAILY 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
5. Ranitidine 150 mg PO BID 
6. Atorvastatin 20 mg PO DAILY 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
8. Ibuprofen 200 mg PO Q8H:PRN pain 
9. Clopidogrel 75 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Loratadine 10 mg PO DAILY 
12. Tamsulosin 0.4 mg PO QHS 
13. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. BuPROPion (Sustained Release) 300 mg PO QPM 
4. Clopidogrel 75 mg PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Loratadine 10 mg PO DAILY 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
8. Ranitidine 150 mg PO BID 
9. Tamsulosin 0.4 mg PO QHS 
10. Vitamin D 1000 UNIT PO DAILY 
11. Ibuprofen 200 mg PO Q8H:PRN pain 
12. metroNIDAZOLE 0.75 % topical QHS:PRN red areas on face 
13. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
chest pain 

Secondary:
Coronary artery disease s/p ___, LAD ___
Hypertension
Hyperlipidemia
Gastroesphageal reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were seen at ___ due to 
shoulder pain, which you had previously experienced before your 
cardiac catheterization. Your EKG did not show any concerning 
findings. However, you had slightly elevated cardiac enzymes. 
You underwent a stress test from the emergency room which showed 
some concern for ischemia (or decreased blood flow to the heart) 
with exercise. For this reason, you were admitted. You underwent 
another cardiac catheterization which showed complete patent 
stents. We believe your chest pain may be musculoskeletal in 
origin. Therefore, we recommend that you see your PCP for 
further evaluation. 

Please take all medications as prescribed and please follow up 
with the appointments we have arranged. It was a pleasure taking 
care of you at ___.

Sincerely,
Your ___ care team.

 
Followup Instructions:
___